US08183264B2
2-Amino-6-methoxymethyl-nicotinamide
2-Amino-6-methoxymethyl-nicotinic acid (0.50 g), WSC (1.1 g), HOBt (0.74 g), ammonium chloride (0.44 g), diisopropylethylamine (2.6 g), and DMSO (10 mL) were stirred for 29 hours at room temperature. Water was added thereto, and then the reaction solution was extracted with ethyl acetate. The organic layer was concentrated and purified by NH silica gel column chromatography (ethyl acetate). Ethyl acetate was added to the residue thus obtained, and the solids were filtered off to obtain the titled compound (290 mg).

reactant | 2-Amino-6-methoxymethyl-nicotinic acid | 0.50 g | NC1=C(C(=O)O)C=CC(=N1)COC | C8H10N2O3
reactant | WSC | 1.1 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.74 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | ammonium chloride | 0.44 g | [Cl-].[NH4+]
reactant | diisopropylethylamine | 2.6 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | Water | O | H2O
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
product | 2-Amino-6-methoxymethyl-nicotinamide | 290 mg | NC1=C(C(=O)N)C=CC(=N1)COC | C8H11N3O2
